US07456283B2
Preparation of N-(4-Methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide
To a solution of 10.95 g (72 mmol) of 3-nitro-4-methyl-aniline in 80 ml of toluene is added a solution of triisobutylaluminium (28% in hexane), 66.5 ml (61 mmol) over a period of 30 min at 0° C. followed by the addition of a solution of 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester (14.9 g, 60 mmol) in toluene (30 ml) during 1 hour at 0° C. under an atmosphere of argon. After stirring for 12 h at room temperature an other portion of triisobutylaluminium (66.5 ml (61 mmol) is added to the dark brown reaction mixture. The mixture is stirred for additional 6 h, then 2 additional small portions of triusobutylaluminium (each 18 ml, 18 mmol) are added and stirring is continued for several hours at room temperature. After acidic and basic workup with sulfuric acid and NaOH the combined organic toluene phases are evaporated in vacuo to give a brown crude product which was crystallized from t-butyl methyl ether to give the title compound as brownish yellow crystals: first crop (11.65 g), sec. crop (3.8 g) and a third crop (1.2 g). in summary 16.65 g (75.3%).

reactant | 3-nitro-4-methyl-aniline | 72 mmol, 10.95 g | [N+](=O)([O-])C=1C=C(N)C=CC1C | C7H8N2O2
reactant | triisobutylaluminium | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester | 60 mmol, 14.9 g | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)[N+](=O)[O-] | C20H24N4O3
